US05677459
A mixture of 5-bromo-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine (1 g, 3.06 mmol), 10% palladium on charcoal (80 mg, 0.077 mmol), copper(I)iodide (58 mg, 0.30 mmol), triphenylphosphine (80 mg, 0.30 mmol) and potassium carbonate (1.06 g, 7.65 mmol) in DME (5 mL) and water (5 mL) was stirred at 25° C. After 0.75 h 2-methyl-3-butyn-2-ol (0.74 mL, 7.65 mmol) was added and the reaction flask was heated at 80° C. for 18 h. Water (30 mL) and ethyl acetate (30 mL) were added to the cooled mixture and this was filtered through celite. The organic phase was separated and the aqueous layer extracted with ethyl acetate (3×20 mL) and the combined ethyl acetate extracts were washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The crude product was purified by silica gel column chromatography with ethyl acetate:hexane (1:3 to 1:1) as eluants to afford 5-(2-hydroxy-2-methyl-3-butynyl)-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine as an oil (772 mg, 76%). LRMS (EI) m/e 231 (M+ +H --CO2 and isobutylene), 230 (M+ --CO2 and isobutylene), 229 (M+ --CO2 tBu); 1H NMR (CDCl3, 300 MHz): δ 8.56 (b-s, 1H), 8.37 (b-d, J=1.5 Hz, 1H), 7.53 (m, 1H), 4.93 (b-m, 0.5H), 4.76 (b-m, 0.5H), 3.5-3.7 (b-m, 2H), 2.36 (m, 1H), 1.75-2.0 (b-m, 3H), 1.72 (b-s, 1H), 1.63 (s, 6H), 1.45 (b-s, 3H), 1.21 (b-s, 6H).

reactant | 5-bromo-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine | 3.06 mmol, 1 g | BrC=1C=C(C=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C14H19BrN2O2
reactant | triphenylphosphine | 0.30 mmol, 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 7.65 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-3-butyn-2-ol | 7.65 mmol, 0.74 mL | CC(C)(C#C)O | C5H8O
catalyst | palladium on charcoal | 0.077 mmol, 80 mg | [Pd] | Pd
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | copper(I)iodide | 0.30 mmol, 58 mg | [Cu]I
solvent | Water | 30 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-hydroxy-2-methyl-3-butynyl)-3-(1-tert-butyloxycarbonyl-2-pyrrolidinyl)pyridine | 772 mg, 76% | OC(CC=1C=C(C=NC1)C1N(CCC1)C(=O)OC(C)(C)C)(C#C)C | C19H26N2O3
